US06933304B2
tert-butyl(5-oxotetrahydrofuran-3-yl)acetate:
Tetrahydrofuran (50 mL) and Lithium diisopropylamide mono tetrahydrofuran complex (20 mL of 1.5 M in cyclohexane) was cooled in a dry ice/Isopropanol bath for 10 min. Tert-butyl acetate (3.5 mL 26 mmoles) was added via syringe and stirred at −78° C. for 30 min. 2(5H)-Furanone (1.59 g, 19 mmoles) was added dropwise and the reaction was stirred for 1 h at −78° C. The reaction was poured into water and extracted with ether 2×150 mL The ether extracts were combined and washed with water 100 mL then brine 3×100 mL, dried and the ether removed under reduced pressure to give 2.74 g of product (72%). MS (ESI+) for C10H16O4 m/z 223 (M+Na)+.

reactant | Tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | Lithium diisopropylamide mono tetrahydrofuran | 1.5 M, 20 mL | O1CCCC1.C(C)(C)[N-]C(C)C.[Li+]
reactant | Tert-butyl acetate | 26 mmoles, 3.5 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | 2(5H)-Furanone | 19 mmoles, 1.59 g | O1C(C=CC1)=O | C4H4O2
solvent | water | O | H2O
product | tert-butyl(5-oxotetrahydrofuran-3-yl)acetate | 2.74 g, 72% | C(C)(C)(C)OC(CC1COC(C1)=O)=O | C10H16O4
